US09353107B2
Step-iii: 3-(1-(3-ethoxybenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-ethoxybenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (100 mg, 0.139 mmol) was deprotected with HCl in methanol (5 ml) to afford 4 mg (4.8% yield) of the titled compound. 1H NMR (CD3OD, 300 MHz): δ 8.39-8.38 (d, 1H), 7.79-7.78 (d, 1H), 7.48-7.45 (m, 2H), 7.32 (s, 1H), 7.22-7.17 (t, 1H), 7.05-7.02 (d, 2H), 6.78-6.76 (dd, 1H), 6.69-6.67 (d, 1H), 6.59 (s, 1H), 5.27 (s, 2H), 3.95-3.93 (q, 2H), 3.95-3.57 (d, 2H), 3.26-3.19 (m, 4H), 3.05-3.02 (m, 2H), 2.16 (s, 3H), 2.12 (s, 3H), 1.30-1.26 (t, 3H). MS: m/z=507.3 (M+1), HPLC Purity: 92.87% Method: B.

reactant | tert-butyl 4-(4-(3-(1-(3-ethoxybenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.139 mmol, 100 mg | C(C)OC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)C)C=CC1 | C36H42N6O3
reactant | HCl | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 3-(1-(3-ethoxybenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 4 mg, 4.8% yield | Cl.C(C)OC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)C)C=CC1 | InChI=1S/C31H34N6O.ClH/c1-4-38-27-7-5-6-23(16-27)20-37-22(3)30(21(2)35-37)29-19-34-31-28(29)17-25(18-33-31)24-8-10-26(11-9-24)36-14-12-32-13-15-36;/h5-11,16-19,32H,4,12-15,20H2,1-3H3,(H,33,34);1H
